US20010003121A1
Prepared according to the method described in Example 69 from 2-chloro-5-(2-chloroethyl)amino-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide (0.1 g), ethanolamine (0.24 g), triethylamine (0.5 ml) and tetrahydrofuran (3 ml). Purification by flash column chromatography eluting with 10% methanol and 1% triethylamine in dichloromethane gave 2-chloro-5-(2-(piperidin-1-yl)ethylamino)-N-(tricyclol3.3.1.13,7]dec-1-ylmethyl)-benzamide as a glass. Conversion to the hydrochloride salt upon treatment with excess ethereal hydrochloric acid (2M) gave the title compound as a cream solid (0.056 g).

reactant | 2-chloro-5-(2-chloroethyl)amino-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.1 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)NCCCl | C20H26Cl2N2O
reactant | ethanolamine | 0.24 g | C(O)CN | C2H7NO
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
